Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
vancomycin / latex / fentanyl / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Urinary retention
 
Major Surgical or Invasive Procedure:
___: Interventional radiology placed suprapubic tube 
(Placement of a 8 ___ pigtail catheter)

 
History of Present Illness:
This is a ___ year old female who presents with urinary retention 
and inability to catheterize herself since yesterday.

Notable urologic history includes spina bifida and neurogenic 
bladder s/p Mitrofanoff creation and urethral closure at 
___ in ___. She presented w/ UTI symptoms 
(foul smelling urine) and did not catheterize herself frequency 
as she loses sensation of her bladder being full when she 
harbors an infection. She was unable to catheterize Mitrofanoff 
umbilical channel after yesterday morning. She normally uses a 
___ Fr. The patient was seen in ___ whereupon the 
ER was unable to place catheter by bedside.

She was transferred here to ___ for further evaluation. 
Currently she reports a sensation of a full bladder. She is, 
however, leaking urine per her umbilical stoma. Of note: she 
does NOT have an augmented bladder per report. Bladder scan was 
300 cc.

 
Past Medical History:
Spina bifida
s/p prior SPT
s/p Mitrofanoff
s/p MACE
LATEX ALLERGY    
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
GEN: NAD, appears stated age, uncomfortable
HEENT: NCAT, EOMI, anicteric sclera
PULM: nonlabored breathing, normal chest rise
ABD: soft, ___ foley in umbilical mitrofanoff, ___ SPT on right 
abd, no CVA tenderness
EXT: WWP, mildly contracted
 
Pertinent Results:
___ 01:08AM BLOOD WBC-13.5* RBC-4.59 Hgb-13.3 Hct-39.6 
MCV-86 MCH-29.0 MCHC-33.6 RDW-12.7 RDWSD-39.8 Plt ___

___ 01:00AM BLOOD Glucose-85 UreaN-23* Creat-0.6 Na-137 
K-5.3* Cl-98 HCO3-20* AnGap-19*

___ 4:50 pm URINE,KIDNEY
      Source: Suprapubic URINE FROM ___ PLACED SPT. 

                            **FINAL REPORT ___

   FLUID CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ was admitted to the urology service under the care of 
Dr. ___ urinary retention and inability to place catheter 
via umbilical mitrofanoff. On hospital day 1, she underwent ___ 
placement of an ___ suprapubic tube into her bladder (urine 
culture ultimately negative). Of note, imaging from the SPT 
placement by ___ demonstrated bladder calculi. After appropriate 
decompression by the SPT, a ___ foley catheter was able to be 
placed in her umbilical mitrofanoff urostomy. The SPT and foley 
were irrigated for some thick cloudy urine and were draining 
adequately. She was kept overnight for observation and remained 
afebrile, hemodynamically stable, tolerated her diet, and pain 
was controlled. She was deemed suitable for discharge on HD#2 
and was recommended to follow up for SPT removal and also 
counseled on importance of more frequent self catheterization. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO QID:PRN DYSPEPSIA  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONEe capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone 2 mg ONE tablet(s) by mouth Q4hrs Disp #*15 
Tablet Refills:*0 
4.  Oxybutynin 5 mg PO TID:PRN bladder spasms 
RX *oxybutynin chloride 5 mg ONE tablet(s) by mouth Q8hrs Disp 
#*25 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 1 Week 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg ONE tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mitrofanoff conduit occlusion
urinary retention
bladder stones
urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
*** DO NOT LET ANYONE BUT YOUR UROLOGIST/TEAM REMOVE THE 
SUPRAPUBIC TUBE/ CATHETER ***

-You will be discharged home with ___ services to further assist 
your transition. 

-Please also reference the instructions provided by nursing on 
SUPRAPUBIC TUBE (SPT) hygiene and waste elimination. 

For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Your SPT should be secured to the catheter secure on your thigh 
at ALL times until your follow up with the surgeon.

-Follow up with UROLOGY for wound check and post-op evaluation 
as directed.  SPT tubes must be exchanged regularly. 

-Wear Large SPT/Foley drainage bag for majority of time; leg-bag 
use is only for short-term when leaving the house, etc.

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ may want to coordinate your showers with your ___ provider 
and the planned dressing changes.

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  

**** Your chart/file has noted that you may have a potential 
intolerance/allergy to ibuprofen. DO NOT USE IBUPROFEN if you 
have a true intolerance/allergy but you may substitute any NSAID 
that works for you (like Aleve)****  

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

=
=
================================================================
SUPRAPUBIC TUBE (8 ___ pigtail catheter)
Catheter is attached to drainage bag for external drainage- 
please measure and record the net output every shift or more 
often if the urine output is high. 
 
Please do tube care teaching with patient before discharge.
 
Call Angio for ANY catheter related questions or problems.
 ___ or Fellow/Resident (pager# ___   
 
Catheter security: a) Every shift, check to be sure the 
catheter, the connecting tubing and the drainage bag are 
securely attached to the patient and are not kinked. b) If the 
catheter appears to be pulling, please notify Interventional 
Radiology. c) If the catheter pulls out, please notify 
Interventional Radiology with in 8 hours. SAVE THE CATHETER for 
us to inspect. Do not throw it away. 
 
Change dressing daily. Gently cleanse around the skin entry site 
of the catheter with povidone iodine or dilute hydrogen 
peroxide. Dry and apply sterile gauze dressing. 

UMBILICAL DRAIN ___ FOLEY CATHETER via the Mitrofanoff):
Catheter is attached to drainage bag for external drainage- 
please measure and record the net output every shift or more 
often if the urine output is high. 

OK to gently flush for debris, troubleshooting.
No more than 20cc NS gently flushed through. 

 
Followup Instructions:
___